US05912252
Methanesulphonyloxy-3,3-dimetliylbutane
To a stirred solution of 3,3-dimethyl-1-butanol (2 ml) in dichloromethane (48 ml), under nitrogen, was added triethylamine (4.64 ml) and the resulting solution cooled to 0/C. Methanesulphonylchloride (1.28 ml) was then added dropwise via syringe and stirring continued for 18 h as the reaction warmed to room temperature. The reaction was then concentrated onto silica and purified by flash chromatography to give the title compound as a yellow oil.

reactant | 3,3-dimethyl-1-butanol | 2 ml | CC(CCO)(C)C | C6H14O
reactant | triethylamine | 4.64 ml | C(C)N(CC)CC | C6H15N
reactant | Methanesulphonylchloride | 1.28 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 48 ml | ClCCl | CH2Cl2
product | Methanesulphonyloxy-3,3-dimetliylbutane | CS(=O)(=O)OCCC(C)(C)C | C7H16O3S
